US08486970B2
To a mixed liquid of 2.95 g of ethyl 2-[3-(dibromomethyl)phenyl]-2-methylpropionate and 30 ml of acetic acid was added 4.77 g of potassium acetate, followed by stirring at 100° C. for 6 hours. After cooling the reaction solution, 10 ml of 6 M hydrochloric acid was added thereto, followed by stirring at room temperature for 2 hours. The reaction solution was poured into water, followed by extraction with hexane, and the organic layer was washed with water and a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and the solvent was then evaporated to obtain 1.74 g of ethyl 2-(3-formylphenyl)-2-methylpropionate as a colorless oily substance.

reactant | ethyl 2-[3-(dibromomethyl)phenyl]-2-methylpropionate | 2.95 g | BrC(C=1C=C(C=CC1)C(C(=O)OCC)(C)C)Br | C13H16Br2O2
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
reactant | potassium acetate | 4.77 g | C(C)(=O)[O-].[K+]
reactant | hydrochloric acid | 6 M, 10 ml | Cl | ClH
solvent | water | O | H2O
product | ethyl 2-(3-formylphenyl)-2-methylpropionate | 1.74 g | C(=O)C=1C=C(C=CC1)C(C(=O)OCC)(C)C | C13H16O3
